US07572799B2
3-(Methoxycarbonyl)-1-[(2S)-2-methoxypropyl]-4-nitro-1H-pyrazole-5-carboxylic acid
Diisopropyl azodicarboxylate (14.9 mL, 76 mmol) was added dropwise to a solution of dimethyl 4-nitropyrazole-3,5-dicarboxylate (15.73 g, 69 mmol), (S)-(+)-2-methoxypropanol (6.81 g, 76 mmol) and triphenylphosphine (19.9 g, 76 mmol) in tetrahydrofuran (220 mL) with stirring under nitrogen, keeping the reaction temperature between 0° C. and 10° C. by cooling in an ice bath. Once addition was complete the reaction was allowed to stir at room temperature for 18 hours. The reaction mixture was concentrated under reduced pressure and the residual oil re-dissolved in methanol (200 mL). Potassium hydroxide (3.88 g, 69 mmol) was added and the reaction was allowed to stir at room temperature for 18 hours. The mixture was concentrated under reduced pressure and the residue suspended in water (50 mL), and washed with dichloromethane (2×100 mL). The aqueous solution was acidified to pH 1 using concentrated hydrochloric acid, and then extracted with dichloromethane (3×100 mL). The combined organic extracts from extraction of the acidic solution were evaporated to dryness, then taken up in saturated aqueous sodium bicarbonate solution (100 ml). The aqueous solution was washed sequentially with dichloromethane (100 mL), and ethyl acetate (2×100 ml), then acidified to pH1 with concentrated hydrochloric acid and extracted with ethyl acetate (3×100 ml). The combined organic extracts from extraction of the acidic solution were dried over magnesium sulphate and concentrated under reduced pressure to afford the title compound as yellow oil. 1H NMR (DMSO-D6, 400 MHz) δ: 1.05 (d, 3H), 3.10 (s, 3H), 3.70 (m, 1H), 3.85 (d, 3H), 4.45-4.70 (m, 2H). MS APCI+ m/z 288 [MH]+

reactant | Diisopropyl azodicarboxylate | 76 mmol, 14.9 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | dimethyl 4-nitropyrazole-3,5-dicarboxylate | 69 mmol, 15.73 g | [N+](=O)([O-])C=1C(=NNC1C(=O)OC)C(=O)OC | C7H7N3O6
reactant | (S)-(+)-2-methoxypropanol | 76 mmol, 6.81 g | CO[C@H](CO)C | C4H10O2
reactant | triphenylphosphine | 76 mmol, 19.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Potassium hydroxide | 69 mmol, 3.88 g | [OH-].[K+]
solvent | tetrahydrofuran | 220 mL | O1CCCC1 | C4H8O
product | 3-(Methoxycarbonyl)-1-[(2S)-2-methoxypropyl]-4-nitro-1H-pyrazole-5-carboxylic acid | COC(=O)C1=NN(C(=C1[N+](=O)[O-])C(=O)O)C[C@H](C)OC | C10H13N3O7
